US08859569B2
4-Amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
3 ml tert.-butanol, a solution of 146 mg (0.70 mmol) of methyl-3,3-dicyano-2,2-dimethylpropanoate in 1.5 ml tert.-butanol and 94 mg (0.84 mmol) of potassium tert.-butylate were added to 200 mg (0.70 mmol) of 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide and it was heated under reflux for 48 h. Water was added and the precipitate was filtered off. The filtrate was extracted with dichloromethane, the organic phase was dried over sodium sulphate and concentrated in a rotary evaporator. The residue was mixed with water/ethanol. The solid was filtered off and dried under high vacuum. 102 mg (34% of theor.) of the target compound was obtained.

reactant | methyl-3,3-dicyano-2,2-dimethylpropanoate | 0.70 mmol, 146 mg | COC(C(C(C#N)C#N)(C)C)=O | C8H10N2O2
reactant | 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | 0.70 mmol, 200 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1 | C14H13FN6
reactant | Water | O | H2O
solvent | tert.-butanol | 1.5 ml | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 3 ml | C(C)(C)(C)O | C4H10O
product | 4-Amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | NC=1C2=C(N=C(N1)C1=NN(C3=NC(=NC=C31)C)CC3=C(C=CC=C3)F)NC(C2(C)C)=O | C21H19FN8O
